US06982348B2
1,1-dimethylethyl (1S)-2-(((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)amino)-2-oxo-1-(phenylmethyl)ethylcarbamate
To a solution of (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (450 mg, 1.44 mmol) in acetonitrile (30 ml) were added N-t-butyloxycarbonyl-L-phenylalanine (382 mg, 1.44 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (413 mg, 2.15 mmol) and 1-hydroxy-1H-benzotriazole (220 mg, 1.44 mmol) and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate). Recrystallization from ethyl acetate-hexane gave the title compound (315 mg, 39%).

reactant | (1RS,2SR)-2-amino-1-(4-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 1.44 mmol, 450 mg | NC(C(O)C1=CC=C(C=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C16H15F4NO
reactant | N-t-butyloxycarbonyl-L-phenylalanine | 1.44 mmol, 382 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.15 mmol, 413 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.44 mmol, 220 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | water | 100 ml | O | H2O
product | 1,1-dimethylethyl (1S)-2-(((1RS,2SR)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethyl)amino)-2-oxo-1-(phenylmethyl)ethylcarbamate | 315 mg, 39% | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O)O | C30H32F4N2O4
